US08293763B2
Step 3: 8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester
A suspension of 8-chloro-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (250 mg, 1.2 mmol), 4-cyclobutyl-2-fluoroaniline (230 mg, 1.4 mmol), Pd2dba3 (43 mg, 0.047 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (80 mg, 0.19 mmol) and K3PO4 (350 mg, 1.7 mmol) in toluene (5 ml) was degassed with argon for 10 minutes and then heated at 100° C. for 18 hours. The reaction mixture was then cooled to room temperature and filtered through hyflo®. The filtrate was concentrated in vacuo, and the resultant gum was subjected to flash chromatography (Si-PPC, eluting with 5% ethyl acetate in DCM) to afford the title compound as a yellow oil (150 mg, 38%). 1H NMR (CDC13): 7.95 (1H, s), 7.73 (1H, d, J=7.4 Hz), 7.23 (1H, t, J=8.6 Hz), 7.07 (1H, d, J=7.3 Hz), 7.01 (2H, m), 6.50 (1H, s), 3.90 (3H, s), 3.59 (1H, m), 2.39 (2H, m), 2.17 (2H, m), 2.06 (1H, m), 1.93 (1H, m).

reactant | 8-chloro-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 1.2 mmol, 250 mg | COC(=O)C1=C(C=2N(C=C1)C=NC2)Cl | C9H7ClN2O2
reactant | 4-cyclobutyl-2-fluoroaniline | 1.4 mmol, 230 mg | C1(CCC1)C1=CC(=C(N)C=C1)F | C10H12FN
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.19 mmol, 80 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 1.7 mmol, 350 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.047 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 150 mg, 38% | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CCC2)F | C19H18FN3O2
